US04753934
(a) Ethyl 4-amino-β-(4-chlorophenyl)-3,5-dichloro-cinnamate
A solution of 108 g (0.55 mol) of ethyl diethylphosphonoacetate in 150 ml of dry 1,2-dimethoxyethane was slowly added dropwise, while stirring and cooling with ice to a suspension of 13.2 g (0.55 mol) of sodium hydride (26.4 g of 50% oil suspension) in 50 ml of dry 1,2-dimethoxyethane, whereupon the mixture foamed vigorously. After all the solution had been added the mixture was stirred for another 30 minutes. It was then combined with a suspension of 150 g (0.5 mol) of 4-amino-3,4',5-trichloro-benzophenone in 800 ml of dry 1,2-dimethoxyethane and heated for one hour at reflux temperature, whereby a clear solution was formed. The solution was evaporated to dryness in vacuo, and the residue was distributed between chloroform and water. The organic phase was dried and evaporated to dryness in vacuo. After mixing with 150 ml of ethanol, crystallization set in. The crystals were suction-filtered off and washed with ethanol and petroleum ether.

reactant | ethyl diethylphosphonoacetate | 0.55 mol, 108 g | C(C)OP(=O)(OCC)CC(=O)OCC | C8H17O5P
reactant | sodium hydride | 0.55 mol, 13.2 g | [H-].[Na+]
reactant | 4-amino-3,4',5-trichloro-benzophenone | 0.5 mol, 150 g | NC1=C(C=C(C(=O)C2=CC=C(C=C2)Cl)C=C1Cl)Cl | C13H8Cl3NO
solvent | 1,2-dimethoxyethane | 150 ml | COCCOC | C4H10O2
solvent | 1,2-dimethoxyethane | 50 ml | COCCOC | C4H10O2
solvent | 1,2-dimethoxyethane | 800 ml | COCCOC | C4H10O2
product | Ethyl 4-amino-β-(4-chlorophenyl)-3,5-dichloro-cinnamate | NC1=C(C=C(C(=CC(=O)OCC)C2=CC=C(C=C2)Cl)C=C1Cl)Cl | C17H14Cl3NO2
